US08247403B2
(3) 4-benzyl-9-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine
To a solution of 4-benzyl-9-bromo-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one (8.00 g, 24.1 mmol) in tetrahydrofuran (80 ml) was added 1M borane-tetrahydrofuran solution (96.4 ml, 96.4 mmol), and the mixture was stirred at 60° C. for 2 hr. Under ice-cooling, methanol (240 ml) and sodium hydroxide (20.8 g, 519 mmol) were added, and the mixture was stirred at room temperature for 2 hr, and the solvent was evaporated under reduced pressure. The residue was poured into water and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the desired product (6.20 g, 80.8%) as an oil.

reactant | 4-benzyl-9-bromo-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one | 24.1 mmol, 8.00 g | C(C1=CC=CC=C1)N1CCOC2=C(C1=O)C=CC=C2Br | C16H14BrNO2
reactant | borane tetrahydrofuran | 96.4 mmol, 1M, 96.4 ml | B.O1CCCC1
reactant | methanol | 240 ml | CO | CH4O
reactant | sodium hydroxide | 519 mmol, 20.8 g | [OH-].[Na+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 4-benzyl-9-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine | 6.20 g, 80.8% | C(C1=CC=CC=C1)N1CCOC2=C(C1)C=CC=C2Br | C16H16BrNO
